US04758262
3-p-Chlorophenyl-4-methyl-1-pentene
To a solution of 10.0 g of 4-chloro-α-[2-methylethyl]benzeneacetonitrile in 100 mL of tetrahydrofuran was added 55 mL of 1M diisobutylaluminum hydride in toluene. The reaction mixture was stirred for 2 hours at 25°, cooled to 0°, and treated with 1 mL of methanol, then 40 mL of 10% aqueous HCl. The mixture was extracted with 100 mL of ether, washed with brine, dried (MgSO4), and concentrated to dryness. The crude product (a 2:1 mixture of aldehyde and starting nitrile) was used in the next step. The mixture was dissolved in ether and added to methylene triphenylphosphorane (prepared by adding 28 mL of 1.6M n-butyllithium in hexane to 16 g of methyl triphenylphosphonium bromide in 150 mL of ether at 0°). The reaction mixture was stirred at 25° overnight, quenched with 2 mL of absolute EtOH, and filtered. The filtrate was washed with water, brine, dried (MgSO4), and concentrated. The residue was "chromatographed" on silica gel; elution with hexane provided 4.6 g of the title compound.

reactant | 4-chloro-α-[2-methylethyl]benzeneacetonitrile | 10.0 g | ClC1=CC=C(C=C1)C(C#N)CCC | C11H12ClN
reactant | diisobutylaluminum hydride | 1M, 55 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methanol | 1 mL | CO | CH4O
reactant | HCl | 40 mL | Cl | ClH
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-p-Chlorophenyl-4-methyl-1-pentene | 4.6 g | ClC1=CC=C(C=C1)C(C=C)C(C)C | C12H15Cl
